US07153855B2
In a similar manner as described in Example 1 from (2E)-1-[2-(3-bromophenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (500 mg, 1.1 mmol) and guanidine sulfate, 4-[2-(3-bromophenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (300 mg, 61%) was obtained as a yellow solid. 1H NMR (d6-DMSO): δ 8.03 (d, 1H), 7.87 (d, 1H), 7.81 (s, 1H), 7.70–7.62 (m, 2H), 7.46 (t, 1H), 7.35 (t, 1H), 6.58 (broad s, 2H), 6.26 (d, 1H), 6.22 (d, 1H), 3.75 (m, 4H), 1.98 (m, 4H); MS m/z 435 (M+1); Anal. Caled. for C21H19N6Br: C, 57.94; H, 4.40; N. 19.31. Found: C, 57.91; H, 4.51; N, 19.07.

reactant | (2E)-1-[2-(3-bromophenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 1.1 mmol, 500 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2N2CCCC2)=C1C(\C=C\N(C)C)=O | C22H23BrN4O
reactant | guanidine sulfate | S(=O)(=O)(O)O.NC(=N)N
product | 4-[2-(3-bromophenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 300 mg, 61% | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2N2CCCC2)=C1C1=NC(=NC=C1)N | C21H19BrN6
